US03944560
3-Oxo-3,4-dihydro-2H-1,5-benzodioxepin (1.64 g.; 10 millimoles) from Example 1, Step C, is added slowly with stirring during 15 minutes at ambient temperature to a solution of dimethyloxosulfonium methylide prepared under nitrogen from 15 millimoles of sodium hydride, 15 millimoles of trimethyloxosulfonium iodide, and 30 mls. of dimethyl sulfoxide. The mixture is stirred for 24 hours at ambient temperature and then 2 hours at 45°-50° C. The mixture is cooled and poured onto 50 g. of ice and repeatedly extracted with diethyl ether. The ethereal extract is washed with water, dried over anhydrous magnesium sulfate and evaporated. The crude product is crystallized from methanol to afford the 3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane identical with the product prepared from 3-hydroxy-3-aminomethyl-3,4-dihydro-2H-1,5-benzodioxepin as described in Example 57, Step A.

reactant | 3-Oxo-3,4-dihydro-2H-1,5-benzodioxepin | 10 millimoles, 1.64 g | O=C1COC2=C(OC1)C=CC=C2 | C9H8O3
reactant | dimethyloxosulfonium methylide | CS(=C)(=O)C | C3H8OS
reactant | sodium hydride | 15 millimoles | [H-].[Na+]
reactant | trimethyloxosulfonium iodide | 15 millimoles | [I-].C[S+](=O)(C)C
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane | O1C2(C1)COC1=C(OC2)C=CC=C1 | C10H10O3
